US04076938
1370 g of 2-isopropyl-2-cyanohydrazinecarboxylic acid ethyl ester is placed into an autoclave, and 423 g of methyl mercaptan is injected. The temperature is held for 24 hours at 40° C. The resulting crystal mass is afterwards transferred to a 2.5 liter sulphonating flask, and heated in an oil bath for 2 1/2 hours at 120° C. There is then added to the reaction mixture cooled to 90° C 1.2 liters of water, whereupon the the reaction product precipitates in crystalline form. Crude 1-isopropyl-5-methylthio-3-hydroxy-1,2,4-thiazole is filtered off, and recrystallised from one liter of acetonitrile. There is obtained 730 g (52% of theory) of pure 1-isopropyl-5-methylthio-3-hydroxy-1,2,4-triazole, m.p. 88°-93° C.

reactant | 2-isopropyl-2-cyanohydrazinecarboxylic acid ethyl ester | 1370 g | C(C)OC(=O)NN(C#N)C(C)C | C7H13N3O2
reactant | methyl mercaptan | 423 g | CS | CH4S
solvent | water | 1.2 liters | O | H2O
product | 1-isopropyl-5-methylthio-3-hydroxy-1,2,4-triazole | 730 g, 52% | C(C)(C)N1N=C(N=C1SC)O | C6H11N3OS
